US04000122
Ethyl Levulinate Dimethyl Hydrazone
In the same manner but replacing ethyl levulinate with an equivalent amount of ethyl acetoacetate, ethyl acetoacetate dimethyl hydrazone, b.p. 88°-92° C/ 19-20 mm, νmaxCHCl3 3245, 3180 and 1728 cm -1, is obtained.

reactant | ethyl levulinate | C(CCC(=O)C)(=O)OCC | C7H12O3
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | ethyl acetoacetate dimethyl hydrazone | CN(N=C(CC(=O)OCC)C)C | C8H16N2O2
product | Ethyl Levulinate Dimethyl Hydrazone | CN(N=C(CCC(=O)OCC)C)C | C9H18N2O2
